US05998649
Hydrosilation of acetylene with bis(dichlorosilyl)trichlorosilylmethane in the presence of H2PtCl6. To a 50 ml, three-necked, dried, flask equipped with a magnetic stirrer was added 200 μl of a 0.1 M H2PtCl6 /isopropyl alcohol (IPA) solution. The flask was placed under dry nitrogen atmosphere and the IPA removed under vacuum. Then, 6.29 g of bis(dichlorosilyl)trichlorosilylmethane and 25 ml of dried benzene were added to the flask forming a solution. The solution was maintained at reflux temperature and acetylene gas fed into the solution at a rate of 90 ml per minute for 10 hours. The resulting products were vacuum distilled at 67 Pa to yield 6.36 g of 1,1,3,3-tetrachloro-2-trichlorosilyl-1,3-disilacyclopent-4-ene (TCD-GC are 81.4%) (TCD-GC =gas chromatography using a thermal conductivity detector) and 1,1,3,3-tetrachloro-2-trichlorosilyl-1,3-disilacyclopentane (TCD-GC 4.2%) as a mixture. The structure of 1,1,3,3-tetrachloro-2-trichlorosilyl-1,3-disilacyclopent-4-ene was confirmed by 1H-NMR (CDCl3, ppm): 1.52 (s, 1H, SiCHSi), 7.42 (s, 2H, CH=CH).

reactant | acetylene | C#C | C2H2
reactant | bis(dichlorosilyl)trichlorosilylmethane | Cl[SiH](Cl)C([Si](Cl)(Cl)Cl)[SiH](Cl)Cl | CH3Cl7Si3
product | 1,1,3,3-tetrachloro-2-trichlorosilyl-1,3-disilacyclopent-4-ene | 6.36 g, 81.4% | Cl[Si]1(C([Si](C=C1)(Cl)Cl)[Si](Cl)(Cl)Cl)Cl | C3H3Cl7Si3
